US04829067
A mixture of 3.1 g of methyl 2-(4-nitrophenyl)benzofuran-7-carboxylate, 11.7 g of stannous chloride dihydrate and 100 ml of ethyl acetate is heated at 70° C. for 1 hour. After cooling, the reaction mixture is alkalized with an aqueous sodium bicarbonate solution and extracted with ethyl acetate. The extract is washed with water, dried and evaporated to remove solvent to give 2.6 g of methyl 2-(4-aminophenyl)benzofuran-7-carboxylate as yellow crystals.

reactant | methyl 2-(4-nitrophenyl)benzofuran-7-carboxylate | 3.1 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2C(=O)OC | C16H11NO5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | methyl 2-(4-aminophenyl)benzofuran-7-carboxylate | 2.6 g | NC1=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2C(=O)OC | C16H13NO3
